US05525742
A stirred solution of 3-amino-5-iodophenylcarbamic acid, 1,1-dimethylethyl ester (A-2, 4.32 g, 13.0 mmol) in methanol (115 mL) and 1 N aqueous HCl (115 mL) is cooled to 0° C., add 1.2 M aqueous NaNO2 (12.9 mL). The reaction mixture is stirred at 0° C. for 25 min, then sulfamic acid (1.26 g, 13.0 mmol) is added followed by sodium azide (1.01 g, 15.6 mmol) in water (6 mL). Stirring is continued at 0° C. for thirty minutes and then the reaction mixture is poured into chloroform (400 mL). The phases are separated and the aqueous phase is extracted with chloroform (2×150 mL). The combined organics are dried (MgSO4), filtered and concentrated. The organic residue is purified by flash chromatography using 20% ethyl acetate in hexane as the eluent to afford 4.04 g of 3-azido-5-iodophenylcarbamic acid, 1,1 -dimethylethyl ester (A-3) as an orange colored oil. This material is used immediately in the next reaction, Step A-4. IR (liquid)3308, 2981, 2119, 2105, 1709, 1691, 1599, 1580, 1537, 1528, 1456, 1451, 1414, 1367, 1276, 1257, 1244, 1160 cm-1 ; 1H NMR (CDCl3) δ7.47 (s, 1 H), 7.09 (t, 1 H, J=2 Hz), 7.01 (t, 3 H, J=2 Hz), 6.00 (bs, 1 H), 1.51 (s, 9 H); 13C NMR (CDCl3) δ152.0, 141.5, 140.4, 123.2, 122.0, 108.1, 94.2, 81.2, 28.0; Mass Spec (70eV, EI) m/z 360 (parent), 304, 276, 248, 232, 205, 149, 131, 105, 77, 57 (base), 40. Exact mass calculated for C11H13IN4O2 : 360.0085. Found: 360.0051.

reactant | 3-amino-5-iodophenylcarbamic acid, 1,1-dimethylethyl ester | 13.0 mmol, 4.32 g | NC=1C=C(C=C(C1)I)NC(OC(C)(C)C)=O | C11H15IN2O2
reactant | NaNO2 | 1.2 M, 12.9 mL | N(=O)[O-].[Na+]
reactant | sulfamic acid | 13.0 mmol, 1.26 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium azide | 15.6 mmol, 1.01 g | [N-]=[N+]=[N-].[Na+]
solvent | methanol | 115 mL | CO | CH4O
solvent | HCl | 1 N, 115 mL | Cl | ClH
solvent | water | 6 mL | O | H2O
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-azido-5-iodophenylcarbamic acid, 1,1 -dimethylethyl ester | 4.04 g | N(=[N+]=[N-])C=1C=C(C=C(C1)I)NC(OC(C)(C)C)=O | C11H13IN4O2
